US05861417
1.3 Synthesis of 3-(3,4-dimethoxypheriyl)-3-(2-hydroxyethyl)pyrrolidine
Combine lithium aluminum hydride (0.99 g, 26.0 mmol) and anhydrous tetrahydrofuran (20 mL). Slowly, add (3-(3,4-dimethoxyphenyl)-5-oxopyrrolidin-3-yl)acetic acid ethyl ester (2.0 g, 6.5 mmol) as a solution in anhydrous tetrahydrofuran (40 mL). After the addition is complete. heat to reflux. After 18 hours, cool in an ice-bath. Add water (1 mL) dropwise at such a rate that the temperature of the reaction mixture does not rise above 20° C. Cool to 10° C., add 15% sodium hydroxide solution (1.0 mL). Add water (3 mL). After 15 minutes, filter the reaction mixture and concentrate the filtrate invacuo to give the title compound: Rf= 0.68 (silica gel, 5/1 ethyl acetate/methanol).

reactant | lithium aluminum hydride | 26.0 mmol, 0.99 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (3-(3,4-dimethoxyphenyl)-5-oxopyrrolidin-3-yl)acetic acid ethyl ester | 6.5 mmol, 2.0 g | C(C)OC(CC1(CNC(C1)=O)C1=CC(=C(C=C1)OC)OC)=O | C16H21NO5
reactant | water | 1 mL | O | H2O
reactant | sodium hydroxide | 1.0 mL | [OH-].[Na+]
reactant | water | 3 mL | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(3,4-dimethoxypheriyl)-3-(2-hydroxyethyl)pyrrolidine | COC=1C=C(C=CC1OC)C1(CNCC1)CCO | C14H21NO3
